US09340555B2
A mixture of 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid (100 mg, 0.22 mmol), HATU (91 mg, 0.24 mmol) and N,N-diisopropylethylamine (62 mg, 0.48 mmol) in anhydrous tetrahydrofuran (10 ml) was heated at 60° C. for 10 minutes, followed by addition of ethyl piperazinoacetate (57 mg, 0.33 mmol). Heating was continued at 60° C. for 30 minutes and the mixture was poured into 100 ml of water. The precipitates were filtered, washed with water and dried in vacuo to give the crude, which was purified by silica gel chromatography eluting with 3˜5% methanol in chloroform to give ethyl [4-({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)piperazin-1-yl]acetate as white solid. Yield: 73 mg, 54%.

reactant | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | 0.22 mmol, 100 mg | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C22H15F2N3O4S
reactant | HATU | 0.24 mmol, 91 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.48 mmol, 62 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl piperazinoacetate | 0.33 mmol, 57 mg | N1(CCNCC1)CC(=O)OCC | C8H16N2O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | ethyl [4-({7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)piperazin-1-yl]acetate | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)N3CCN(CC3)CC(=O)OCC)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C30H29F2N5O5S
